US07919488B2
1-(3-(5-(4-fluorobenzyl)-3-(pyridin-4-yl)-1H-pyrazol-1-yl)azetidin-1-yl)propan-1-one
To a solution of 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine (75 mg, 0.24 mmol) in CH2Cl2 (2 mL) was added propionyl chloride (22 μL, 0.24 mmol) and triethylamine (37 μL, 0.26 mmol) and the reaction mixture was stirred at room temperature for 2 hours. The solution was then loaded directly onto a pre-wetted Biotage 25M column and purified by flash chromatography (0-5% MeOH/CH2Cl2) to give the title compound as a white solid, 68 mg, 78%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.57 (d, 2 H), 7.74 (d, 2 H), 7.26 (t, 2 H), 7.16 (t, 2 H), 6.72 (s, 1 H), 5.25-5.34 (m, 1 H), 4.32-4.45 (m, 2 H), 4.07-4.13 (m, 4 H), 2.09 (q, 2 H), 0.97 (t, 3 H); m/z (APCI+) for C21H21N4FO 365.1 (M+H)+.

reactant | 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine | 0.24 mmol, 75 mg | FC1=CC=C(CC2=CC(=NN2C2CNC2)C2=CC=NC=C2)C=C1 | C18H17FN4
reactant | propionyl chloride | 0.24 mmol, 22 μL | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.26 mmol, 37 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-(5-(4-fluorobenzyl)-3-(pyridin-4-yl)-1H-pyrazol-1-yl)azetidin-1-yl)propan-1-one | FC1=CC=C(CC2=CC(=NN2C2CN(C2)C(CC)=O)C2=CC=NC=C2)C=C1 | C21H21FN4O
